US07576215B2
3,4-DIPHENYL-8-(TRIFLUOROMETHYL)QUINOLINE
4-Bromo-3-phenyl-8-(trifluoromethyl)quinoline: A stirred solution of 3-phenyl-8-(trifluoromethyl)quinolin-4-ol (0.162 g, 0.56 mmol) in DMF (5 mL) is treated with P(O)Br3 (0.452 mg, 1.67 mmol) and heated at 90° C. After stirring 0.5 h, the solution is poured into 2N aq HCl and extracted with ethyl acetate. The combined extracts are washed with water, sat aq NaHCO3, brine, dried over magnesium sulfate, and concentrated in vacuo to afford the title compound as a light orange solid (0.170 g, 86%). mp 75-77° C.; MS (ESI) m/z 352; HRMS: calcd for C16H9NF3Br+H, 351.99487;

reactant | 4-Bromo-3-phenyl-8-(trifluoromethyl)quinoline | BrC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C1=CC=CC=C1 | C16H9BrF3N
reactant | 3-phenyl-8-(trifluoromethyl)quinolin-4-ol | 0.56 mmol, 0.162 g | C1(=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1O)C(F)(F)F | C16H10F3NO
reactant | P(O)Br3 | 1.67 mmol, 0.452 mg | P(=O)(Br)(Br)Br | Br3OP
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3,4-DIPHENYL-8-(TRIFLUOROMETHYL)QUINOLINE | 0.170 g, 86% | C1(=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C22H14F3N
